US03974161
Ethyl 5-Phenylpyrimido[4,5-b]Quinolin-4(3H)-One-2-Carboxylate
A mixture of 2-amino-4-phenylquinoline-3-carboxamide (263 mg., 1.0 millimole), diethyl oxalate (5 ml.) acetic acid (5 ml.) is heated to reflux overnight. It is then cooled, diluted with ether (50 ml.) and the brown solid which forms filtered off. The filtrate is evaporated in vacuo and the oily residue triturated with saturated aqueous sodium bicarbonate solution. The resulting solid (110 mg.) is recovered by filtration and recrystallized from hot ethyl acetate (8 ml.). A small amount of insoluble material is filtered off from the hot solution. Upon cooling, the title product separates as crystals (25 mg.). M.P. = 255° C. (dec.).

reactant | 2-amino-4-phenylquinoline-3-carboxamide | 1.0 millimole, 263 mg | NC1=NC2=CC=CC=C2C(=C1C(=O)N)C1=CC=CC=C1 | C16H13N3O
reactant | diethyl oxalate | 5 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | ether | 50 ml | CCOCC | C4H10O
product | Ethyl 5-Phenylpyrimido[4,5-b]Quinolin-4(3H)-One-2-Carboxylate | C1(=CC=CC=C1)C1=C2C(=NC3=CC=CC=C13)N=C(NC2=O)C(=O)OCC | C20H15N3O3
